2154-11-10 08:46:00 Physician Attending Progress Note
Chief Complaint: gi bleed, afib, resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  This note reflects
   updates that occurred in the ICU this AM not reflected in his note.
   HPI:
   82 yr old with COPD. pHTN, Afib, GI bleed
   24 Hour Events:
 EKG - At [**2154-11-9**] 05:41 PM
 MULTI LUMEN - START [**2154-11-9**] 05:49 PM
 NASAL SWAB - At [**2154-11-9**] 10:00 PM
 RECTAL SWAB - At [**2154-11-9**] 10:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2154-11-9**] 05:30 PM
   Pantoprazole (Protonix) - [**2154-11-9**] 08:00 PM
   Furosemide (Lasix) - [**2154-11-10**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2154-11-10**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 98 (71 - 136) bpm
   BP: 140/55(76) {95/35(48) - 184/94(114)} mmHg
   RR: 16 (11 - 23) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                     60 mL
                                                                     50 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                     10 mL
   Blood products:
   Total out:
                                                                    240 mL
                                                                    580 mL
   Urine:
                                                                    240 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 89%
   ABG: 7.28/80.[**Numeric Identifier 248**]/48/36/6
   ABG 7.19/100/66
   PaO2 / FiO2: 69
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dry muc membranes
   Cardiovascular: (S1: Normal), (S2: Normal) irreg irreg
   Respiratory / Chest: (Breath Sounds: Diminished: severely with faint
   RLL rales
   Skin:  warm, no rash, burn over back
   Neurologic: somnelent but arousable
   Labs / Radiology
   7.9 g/dL
   86 K/uL
   104 mg/dL
   1.5 mg/dL
   36 mEq/L
   4.7 mEq/L
   54 mg/dL
   105 mEq/L
   146 mEq/L
   24.1 %
   11.9 K/uL
        [image002.jpg]
   CXR: RLL collapse, R effussion and pulm edema
                            [**2154-11-9**]  05:25 PM
                            [**2154-11-10**]  12:21 AM
                            [**2154-11-10**]  07:19 AM
   WBC
   11.1
   11.9
   Hct
   26.0
   24.1
   Plt
   86
   86
   Cr
   1.5
   1.5
   TropT
   0.21
   0.25
   TCO2
   39
   Glucose
   127
   104
   Other labs: PT / PTT / INR:13.8/32.0/1.2, CK / CKMB /
   Troponin-T:125/6/0.25, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:89.1 %, Band:0.0 %, Lymph:4.5 %, Mono:6.1 %, Eos:0.2
   %, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:9.0
   mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   CXR: insterstitial edema and bilat lower lobe opacification
   Post Intubation film ett near carina, plan pull back 2 CM
   Assessment and Plan
   COPD
   CAD s/p CABG
   ATRIAL FIBRILLATION (AFIB)
   IMPAIRED SKIN INTEGRITY
   1.       Acute on chronic hypercarbic respiratory failure with known
   severe oxygen dependent COPD.  Over the course of this morning she has
   deteriorated initially from a primary hypoxemia
 likely due to RLL
   collapse and volume overload- then evolved into hypercarbia. Her ABG
   showed an uncompensated resp academia and she was beginning to become
   somnolent. We elected to intubate felling she did have the mental
   status to even trial BIPAP.
   Vent: start with AC low tidal volumes and see if she can covert to PSV
   quickly this AM
   HAP: Vanco/Meropenem- send sputum cultures
   COPD: increase to [**Hospital1 **] Medrol, ATC MDIs
   Volume Overload: goal 500 to 1000cc negative as BP tolerate
   Place Aline for hemodynamics and freq ABGs
   2.  GIB:  Persistent dark guaiac positive stools.  Hct 24.0.  No
   documentation of NGT lavage.  Hemodynamically stable here.  Guaiac
   stools, serial CBC's, IV PPI, active type and screen, will transfuse
   one unit this AM for Hct < 25.
   Per DR [**First Name (STitle) 7116**] who was called from OSH- she had an EGD there which was neg
   and she had a C scope last year which was clean. OSH GI attg feels that
   IR would be next step so if she dose re bleed we will discuss with IR
   bleeding scan versus Angio looking for lower source.
   3. Acute renal failure in setting of hypotension, most likely ATN as
   felt by outside MD's.  Resolving with improved urine output and Cr.
   Monitor I/Os with foley, daily Cr.
   4.  Afib: Rate better controlled after metoprolol.  Restart metoprolol,
   diltiazem.  Hold on anticoagulation for now in setting of GIB.
   5.  Thrombocytopenia:  Felt to be secondary to zosyn at OSH, counts
   have improved after stopping this med.  Not clear if she had heparin,
   or antibodies checked.  Will hold on heparin products here for now and
   check for antibodies.  Follow counts.
   6.       CAD:  Has had chest tightness albeit notes this has been
   present since extubation.  No acute changes on ECG except flattened
   twaves in setting of RVR.  Will trend enzymes.  Cntinue simvastatin,
   beta blocker as above. Not on outpt ASA and has GI bleed but if acute
   ischemia OK for ASA>
   7.       Back Wound: Burn from OSH heating pad, silvadine,   wound care
   consult  in AM.
   ICU Care
   Nutrition: start TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2154-11-9**] 05:49 PM
 now out
   20 Gauge - [**2154-11-9**] 10:40 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with pt and son
 try to reach son today
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2154-11-10 10:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2154-11-9**] 05:41 PM
 MULTI LUMEN - START [**2154-11-9**] 05:49 PM
 NASAL SWAB - At [**2154-11-9**] 10:00 PM
 RECTAL SWAB - At [**2154-11-9**] 10:00 PM
 MULTI LUMEN - STOP [**2154-11-10**] 06:58 AM
   Patient just admitted; plan has not changed since admission.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Metoprolol - [**2154-11-9**] 05:30 PM
   Pantoprazole (Protonix) - [**2154-11-9**] 08:00 PM
   Furosemide (Lasix) - [**2154-11-10**] 07:00 AM
   Other medications:
   Changes to medical and family history: No changes.
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes.
   Flowsheet Data as of  [**2154-11-10**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 74 (71 - 136) bpm
   BP: 113/38(54) {95/35(48) - 196/94(114)} mmHg
   RR: 13 (11 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                     60 mL
                                                                     96 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                     10 mL
                                                                      6 mL
   Blood products:
   40 mL
   Total out:
                                                                    240 mL
                                                                    730 mL
   Urine:
                                                                    240 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                   -634 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.30/71/86.[**Numeric Identifier 96**]/36/5
   Ve: 4.3 L/min
   PaO2 / FiO2: 145
   Physical Examination
   General: Awake, alert, oriented x 3, no distress
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: JVP elevated at jaw, no LAD
   CV: irregularly irregular, s1 + s2, III/VI SEM at LLSB, HSM at apex, no
   rubs or gallops
   Lungs: Poor air movement throughout, scarce expiratory wheezes, no
   rales or ronchi
   GI: soft, non-tender, non-distended, +BS, no organomegaly appreciated
   GU: foley draining clear yellow urine
   Ext: WWP, 1+ pulses, no clubbing, cyanosis or edema
   Back: stage II decubitous ulcer on back, faint 3 mm erythematous
   lesions throughout buttocks and upper thighs, non raised
   Rectal: Flexiseal with dark guaiac positive stool
   Labs / Radiology
   86 K/uL
   7.9 g/dL
   104 mg/dL
   1.5 mg/dL
   36 mEq/L
   4.7 mEq/L
   54 mg/dL
   105 mEq/L
   146 mEq/L
   24.3 %
   11.9 K/uL
        [image002.jpg]
                            [**2154-11-9**]  05:25 PM
                            [**2154-11-10**]  12:21 AM
                            [**2154-11-10**]  07:19 AM
                            [**2154-11-10**]  07:46 AM
                            [**2154-11-10**]  08:14 AM
                            [**2154-11-10**]  10:18 AM
   WBC
   11.1
   11.9
   Hct
   26.0
   24.1
   24.3
   Plt
   86
   86
   Cr
   1.5
   1.5
   TropT
   0.21
   0.25
   0.27
   TCO2
   39
   40
   36
   Glucose
   127
   104
   Other labs: PT / PTT / INR:13.8/32.0/1.2, CK / CKMB /
   Troponin-T:148/6/0.27, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:89.1 %, Band:0.0 %, Lymph:4.5 %, Mono:6.1 %, Eos:0.2
   %, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:9.0
   mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
   Impression: 82 year old female with a history of coronary artery
   disease s/p CABG, aortic valve replacement, atrial fibrillation and
   COPD on home oxygen who presented to OSH on [**2154-11-4**] with hypotension,
   bradycardia and hypercarbic respiratory failure now transferred for
   management of gastrointestinal bleeding.
   Hypercarbic Respiratory Failure:  No extubated since [**2154-11-5**] and doing
   well.  ABG shows chronic respiratory acidosis which is well
   compensated.  Poor air movement on exam.  On 3L nasal cannula at home,
   currently satting 95% on 4L.  CXR with evidence of volume overload.
   - transition to prednisone 60 mg daily
   - continue advair, ipratropium, home xopenex
   - titrate oxygen for saturations > 90%
   - completed 5 day course of azithromycin
   Acute Renal Failure: Baseline creatinine 1.0.  Currently 1.5 down from
   2.6 on presentation to [**Location (un) **] on [**2154-11-4**].  Currently making good
   urine ouput.
   - will continue to monitor
   - renally dose medications
   Gastrointestinal Bleeding:  Patient has been having dark guaiac
   positive stools since admission to [**Location (un) **].  Her hematocrit on
   admission was 19.4 and per reports she received 2 units of packed red
   blood cells. Her hematocrit is currently 26.0.  She does continue to
   note some subjective chest pressure but says that her breathing is
   currently close to her baseline.
   - active type and screen
   - triple lumen for access, will need to establish peripheral access
   - transfusion goal > 25
   - IV PPI [**Hospital1 **]
   - GI consult in AM for potential upper endoscopy
   - currently hemodynamically stable
   - would like to obtain prior records from [**Location (un) **] regarding past
   endoscopies
   - full liquids for now
   Thrombocytopenia:  Unclear etiology.  Thought at outside hospital to be
   secondary to Zosyn.  Platelet count increasing from nadir of 56.
   - send PF4 antibiodies
   - holding heparin products
   - monitor platelet count
   Atrial Fibrillation:  In rapid ventricular response on admission, now
   improved with IV metoprolol.  Off digoxin and tykosyn since admission
   to outside hospital.
   - restart metoprolol at 12.5 mg [**Hospital1 **]
   - titrate up diltiazem as tolerated
   - currently not anticoagulated secondary to gastrointestinal bleeding
   - holding tykosin and digoxin, will discuss with Dr. [**Last Name (STitle) 6636**]
   Coronary Artery Disease s/p CABG (LIMA to LAD and SVG to RCA).
   Currently complaining of chest tightness in the setting of rapid
   ventricular rates. Troponins slightly elevated at 0.2.  Trend not
   available from [**Location (un) **]. EKG without ischemic changes.
   - continue simvastatin
   - continue metoprolol
   - not on aspirin, will discuss with cardiologist
   - will trend cardiac enzymes Q8 to ensure not rising
   Aortic Valve Replacement (bioprosthetic): Not anticoagulated.
   Performed in [**2147**].  Echocardiogram with preserved systolic function and
   well placed valve.
   Hypertension:
   - holding antihypertensives
   Hyperlipidemia:
   - continue simvastatin
   Diastolic Congestive Heart Failure:  Volume overload on CXR with left
   sided effusion s/p thoracentesis with transudate.
   - will give lasix 40 mg IV x 1 now
   - goal I/O - 500 to 1 L
   - control blood pressures as tolerated
   - continue beta blocker and calcium channel blocker for atrial
   fibrillation
   Back Wound:  Patient with stage II ulcer on back from burn injury at
   [**Location (un) **].
   - Silvadene 1% cream to coccyx [**Hospital1 **]
   - wound care consult
   FEN: No IVF, monitor electrolytes, full liquids for now
   Access: triple lumen placed at OSH, will attempt to place peripherals
   Prophylaxis: pneumoboots
   Code: Full
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-11-10**] 09:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-11-11 07:05:00 Physician Resident Progress Note
Chief Complaint: bradycardia
   24 Hour Events:
   - reinitated solumedrol at 40mg [**Hospital1 **]
   - intubated for hypercarbic respiratory failure in the setting of ?
   pulmonary edema and suspected aspiration (started on vanco.[**Last Name (un) 430**])
   - recieved 2 units of blood with minimal improvement in hct
   (23.7-->24.1-->25.5)
   - Pt was given 1L of water for hypernatremia; resolved
   - lasix 40 x1
   - Replaced foley for blood tinged urine and cleared when 3 way Foley
   placed
   - No melena o/n
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-10**] 10:00 AM
   Meropenem - [**2154-11-11**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-11-10**] 08:00 PM
   Furosemide (Lasix) - [**2154-11-10**] 08:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nonverbal
   Flowsheet Data as of  [**2154-11-11**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.3
   HR: 71 (55 - 101) bpm
   BP: 153/54(88) {124/44(70) - 166/61(100)} mmHg
   RR: 14 (11 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,031 mL
                                                                    282 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  1,373 mL
                                                                    182 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                  1,690 mL
                                                                    395 mL
   Urine:
                                                                  1,690 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    341 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 458 (458 - 458) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 19
   PIP: 33 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.33/66/82.[**Numeric Identifier 96**]/31/5
   Ve: 5 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General: Awake, alert, NAD, intubated, minimally sedated
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: JVP elevated at jaw, no LAD
   CV: irregularly irregular, s1 + s2, III/VI SEM at LLSB, HSM at apex, no
   rubs or gallops
   Lungs: faint wheeze at end expiration
   GI: soft, non-tender, non-distended, +BS, no organomegaly appreciated
   GU: foley draining clear yellow urine
   Ext: WWP, 1+ pulses, no clubbing, cyanosis or edema
   Back: stage II decubitous ulcer on back, faint 3 mm erythematous
   lesions throughout buttocks and upper thighs, non raised
   Rectal: Flexiseal with dark guaiac positive stool
   Labs / Radiology
   79 K/uL
   9.4 g/dL
   86 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.1 mEq/L
   56 mg/dL
   103 mEq/L
   140 mEq/L
   27.2 %
   8.3 K/uL
        [image002.jpg]
                            [**2154-11-10**]  10:18 AM
                            [**2154-11-10**]  02:23 PM
                            [**2154-11-10**]  02:36 PM
                            [**2154-11-10**]  03:29 PM
                            [**2154-11-10**]  08:49 PM
                            [**2154-11-10**]  09:10 PM
                            [**2154-11-10**]  10:00 PM
                            [**2154-11-11**]  04:41 AM
                            [**2154-11-11**]  04:55 AM
                            [**2154-11-11**]  06:16 AM
   WBC
   8.3
   Hct
   23.7
   24.1
   25.5
   27.2
   Plt
   69
   72
   79
   Cr
   1.6
   1.5
   1.5
   TropT
   0.26
   TCO2
   36
   36
   35
   37
   36
   Glucose
   103
   152
   150
   86
   Other labs: PT / PTT / INR:13.0/28.1/1.1, CK / CKMB /
   Troponin-T:114/4/0.26, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Impression: 82 year old female with a history of coronary artery
   disease s/p CABG, aortic valve replacement, atrial fibrillation and
   COPD on home oxygen who presented to OSH on [**2154-11-4**] with hypotension,
   bradycardia and hypercarbic respiratory failure now transferred for
   management of gastrointestinal bleeding.  Reintubated [**11-10**] for
   hypercarbic respiratory failure in the setting of pulmonary edema.
   Hypercarbic Respiratory Failure:  At OSH was extubated [**2154-11-5**], but
   re-intubated [**11-10**] at [**Hospital1 54**] for hypercarbic respiratory failure.  ABG
   shows chronic respiratory acidosis which is well compensated.  Poor air
   movement on exam.  On 3L nasal cannula at home, currently satting 95%
   on 4L.  CXR with evidence of volume overload. RSBI < 50
   - Minimal pressure support and plan to extubate this am
   - Continue solumedrol 40 [**Hospital1 **] and consider transition to prednisone
   tommorow
   - Vanco/[**Last Name (un) **] started [**11-10**] for empiric coverate of nosomial pna
   - sputum cx
   - continue advair, ipratropium, home xopenex
   - titrate oxygen for saturations > 90%
   - completed 5 day course of azithromycin
   Acute Renal Failure: Baseline creatinine 1.0.  Currently 1.5 down from
   2.6 on presentation to [**Location (un) **] on [**2154-11-4**].  Thought tot be [**12-22**] ATN.
   Currently making good urine ouput.
   - will continue to monitor
   - renally dose medications
   Gastrointestinal Bleeding:  Patient has been having dark guaiac
   positive stools since admission to [**Location (un) **].  No EGD at OSH. Her
   hematocrit on admission was 19.4 and per reports she received 2 units
   of packed red blood cells. Yesterday received 2 U PRBC. Her hematocrit
   is currently 27.2. Currently HD stable.
   - active type and screen
   - triple lumen for access, will need to establish peripheral access
   - transfusion goal > 25
   - IV PPI [**Hospital1 **]
   - f/u GI consult
   - would like to obtain prior records from [**Location (un) **] regarding past
   endoscopies
   Thrombocytopenia:  Unclear etiology.  Thought at outside hospital to be
   secondary to Zosyn.  Platelet count increasing from nadir of 56.
   Negative Pf4 from [**2147**]. Now 79.
   - f/u  PF4 antibiodies
   - holding heparin products
   - monitor platelet count
   - transufse for platelets < 50 while actively bleeding
   Atrial Fibrillation:  In rapid ventricular response on admission, which
   improved with IV metoprolol.  Off digoxin and tykosyn since admission
   to outside hospital.
   - continue metoprolol at 12.5 mg [**Hospital1 **]
   - titrate up diltiazem as tolerated
   - currently not anticoagulated secondary to gastrointestinal bleeding
   - holding tykosin and digoxin, will discuss with Dr. [**Last Name (STitle) 6636**]
   Coronary Artery Disease s/p CABG (LIMA to LAD and SVG to RCA).
   Currently complaining of chest tightness in the setting of rapid
   ventricular rates. Troponins slightly elevated at 0.2 and peaked 0.26.
   Trend not available from [**Location (un) **]. EKG without ischemic changes.
   - continue simvastatin
   - continue metoprolol
   - not on aspirin, will discuss with cardiologist
   Aortic Valve Replacement (bioprosthetic): Not anticoagulated.
   Performed in [**2147**].  Echocardiogram with preserved systolic function and
   well placed valve.
   Hypertension:
   - holding antihypertensives
   Hyperlipidemia:
   - simvastatin
   Diastolic Congestive Heart Failure:  Volume overload on CXR with left
   sided effusion s/p thoracentesis with transudate.
   - goal I/O - 500 to 1 L
   - control blood pressures as tolerated
   - continue beta blocker and calcium channel blocker for atrial
   fibrillation
   Back Wound:  Patient with stage II ulcer on back from burn injury at
   [**Location (un) **].
   - Silvadene 1% cream to coccyx [**Hospital1 **]
   - wound care consult
   FEN: No IVF, monitor electrolytes, full liquids for now
   Access: triple lumen placed at OSH, will attempt to place peripherals
   Prophylaxis: pneumoboots
   Code: Full
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-11-10**] 09:37 AM
   Arterial Line - [**2154-11-10**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:  hob elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-11-11 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2154-11-10**] 08:13 AM
 INVASIVE VENTILATION - START [**2154-11-10**] 08:35 AM
 ARTERIAL LINE - START [**2154-11-10**] 02:00 PM
   Intubated yesterday.  Remains intubated, mechanically ventilated.
   History obtained from Patient
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-10**] 10:00 AM
   Meropenem - [**2154-11-11**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-11-10**] 08:00 PM
   Pantoprazole (Protonix) - [**2154-11-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-11-11**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36
C (96.8
   HR: 79 (55 - 80) bpm
   BP: 171/59(98) {124/44(70) - 171/61(100)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,031 mL
                                                                    332 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                  1,373 mL
                                                                    232 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                  1,690 mL
                                                                    610 mL
   Urine:
                                                                  1,690 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    341 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 629 (458 - 629) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 19
   PIP: 10 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/61/69/31/6
   Ve: 5.5 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   79 K/uL
   86 mg/dL
   1.5 mg/dL
   31 mEq/L
   4.1 mEq/L
   56 mg/dL
   103 mEq/L
   140 mEq/L
   27.2 %
   8.3 K/uL
        [image002.jpg]
                            [**2154-11-10**]  02:23 PM
                            [**2154-11-10**]  02:36 PM
                            [**2154-11-10**]  03:29 PM
                            [**2154-11-10**]  08:49 PM
                            [**2154-11-10**]  09:10 PM
                            [**2154-11-10**]  10:00 PM
                            [**2154-11-11**]  04:41 AM
                            [**2154-11-11**]  04:55 AM
                            [**2154-11-11**]  06:16 AM
                            [**2154-11-11**]  09:34 AM
   WBC
   8.3
   Hct
   23.7
   24.1
   25.5
   27.2
   Plt
   69
   72
   79
   Cr
   1.6
   1.5
   1.5
   TropT
   0.26
   TCO2
   36
   35
   37
   36
   36
   Glucose
   103
   152
   150
   86
   Other labs: PT / PTT / INR:13.0/28.1/1.1, CK / CKMB /
   Troponin-T:114/4/0.26, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Respiratory failure; GI bleed
   RESPIRATORY FAILURE -- persistent, but good progress.  Emirical
   antimicrobials, increased steroids, and diuresis.  Underlying COPD and
   left hemidiaphragm paralysis.  Hope to work towards extubation trial.
   GI BLEED -- stable clinically.  Source remains unclear.  s/p 2 U PRBC.
   GI consulation defers EGD at present.
   DIGOXIN TOXICITY -- improved.  D/C digoxin.
   A-FIB -- improved control.  Currently NSR.  metoprolol and diltiazem.
   Digoxin on hold.
   AS -- s/p AVR (bioprosthetic)
   CAD -- s/p revascularization.
   NUTRITIONAL -- TF
   FLUIDS -- desire net negative fluid balance.
   RENAL FUNCTION -- chronic insufficiency, improved.
   THROMBOCYTOPENIA -- improving.  Attributed to antimicrobials (Zosyn)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-11-10**] 09:37 AM
   Arterial Line - [**2154-11-10**] 02:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2154-11-12 08:27:00 Physician Resident Progress Note
Chief Complaint: COPD exacerbation
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2154-11-11**] 12:03 PM
 NON-INVASIVE VENTILATION - START [**2154-11-11**] 03:24 PM
 NASAL SWAB - At [**2154-11-12**] 06:21 AM
   - extubated on AMrs
   - no melanotic stools overnight
   - noninvasive ventilation for ? hypoxemia in setting of pulmonary edema
   - ABG 7.37/60/66/36 > 7.3/69/54/35 > 7.28/72/66/35 > started bipap >
   7.36/61/73/36 on bipap > 7.24/80/63/36 off bipap p/n > restarted bipap
   7.31/70/80/37
   - GI - ? stress gastritis; monitor hcts; no procedure planned unless
   hct decreases significantly or over signs of bleeding (egd/colonoscopy
   when stable)
   - Hct 27.2 > 30.3
   - lasix 20 x1 in pm -> 700 cc UOP
   - HTN to 180s and Tachy to 140s 1800 --> responded to lopressor 5 x1
   and ativan 0.5 x1
   - code status reconfirmed as full
   - IV access lost o/n
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-10**] 10:00 AM
   Meropenem - [**2154-11-11**] 11:28 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-11-11**] 03:45 PM
   Metoprolol - [**2154-11-11**] 06:00 PM
   Lorazepam (Ativan) - [**2154-11-11**] 06:30 PM
   Pantoprazole (Protonix) - [**2154-11-11**] 07:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-12**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 78 (61 - 102) bpm
   BP: 179/74(118) {120/47(71) - 183/79(118)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,312 mL
                                                                     82 mL
   PO:
             TF:
   IVF:
                                                                  1,212 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    710 mL
   Urine:
                                                                  1,215 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     97 mL
                                                                   -628 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 465 (438 - 794) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.31/69/84.[**Numeric Identifier 1625**]/34/4
   Ve: 4.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No(t) No acute distress, Thin, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x0, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   93 K/uL
   10.0 g/dL
   118 mg/dL
   1.7 mg/dL
   34 mEq/L
   4.4 mEq/L
   69 mg/dL
   105 mEq/L
   147 mEq/L
   28.7 %
   6.5 K/uL
        [image002.jpg]
                            [**2154-11-11**]  02:46 PM
                            [**2154-11-11**]  04:21 PM
                            [**2154-11-11**]  04:40 PM
                            [**2154-11-11**]  09:48 PM
                            [**2154-11-11**]  11:26 PM
                            [**2154-11-12**]  01:16 AM
                            [**2154-11-12**]  02:53 AM
                            [**2154-11-12**]  02:57 AM
                            [**2154-11-12**]  06:37 AM
                            [**2154-11-12**]  07:25 AM
   WBC
   6.5
   Hct
   30.3
   28.7
   Plt
   93
   Cr
   1.5
   1.7
   TCO2
   35
   36
   38
   36
   37
   38
   36
   Glucose
   115
   118
   Other labs: PT / PTT / INR:12.6/27.1/1.1, CK / CKMB /
   Troponin-T:114/4/0.26, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:9.1
   mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
   Impression: 82 year old female with a history of coronary artery
   disease s/p CABG, aortic valve replacement, atrial fibrillation and
   COPD on home oxygen who presented to OSH on [**2154-11-4**] with hypotension,
   bradycardia and hypercarbic respiratory failure now transferred for
   management of gastrointestinal bleeding.  Reintubated [**11-10**] for
   hypercarbic respiratory failure in the setting of pulmonary edema.
   Hypercarbic Respiratory Failure:  At OSH was extubated [**2154-11-5**], but
   re-intubated [**11-10**] at [**Hospital1 54**] for hypercarbic respiratory failure.  ABG
   shows chronic respiratory acidosis which is well compensated.  Poor air
   movement on exam.  On 3L nasal cannula at home, currently satting 95%
   on 4L.  CXR with evidence of volume overload. RSBI < 50
   - Minimal pressure support and plan to extubate this am
   - Continue solumedrol 40 [**Hospital1 **] and consider transition to prednisone
   tommorow
   - Vanco/[**Last Name (un) **] started [**11-10**] for empiric coverate of nosomial pna
   - sputum cx
   - continue advair, ipratropium, home xopenex
   - titrate oxygen for saturations > 90%
   - completed 5 day course of azithromycin
   Acute Renal Failure: Baseline creatinine 1.0.  Currently 1.5 down from
   2.6 on presentation to [**Location (un) **] on [**2154-11-4**].  Thought tot be [**12-22**] ATN.
   Currently making good urine ouput.
   - will continue to monitor
   - renally dose medications
   Gastrointestinal Bleeding:  Patient has been having dark guaiac
   positive stools since admission to [**Location (un) **].  No EGD at OSH. Her
   hematocrit on admission was 19.4 and per reports she received 2 units
   of packed red blood cells. Yesterday received 2 U PRBC. Her hematocrit
   is currently 27.2. Currently HD stable.
   - active type and screen
   - triple lumen for access, will need to establish peripheral access
   - transfusion goal > 25
   - IV PPI [**Hospital1 **]
   - f/u GI consult
   - would like to obtain prior records from [**Location (un) **] regarding past
   endoscopies
   Thrombocytopenia:  Unclear etiology.  Thought at outside hospital to be
   secondary to Zosyn.  Platelet count increasing from nadir of 56.
   Negative Pf4 from [**2147**]. Now 79.
   - f/u  PF4 antibiodies
   - holding heparin products
   - monitor platelet count
   - transufse for platelets < 50 while actively bleeding
   Atrial Fibrillation:  In rapid ventricular response on admission, which
   improved with IV metoprolol.  Off digoxin and tykosyn since admission
   to outside hospital.
   - continue metoprolol at 12.5 mg [**Hospital1 **]
   - titrate up diltiazem as tolerated
   - currently not anticoagulated secondary to gastrointestinal bleeding
   - holding tykosin and digoxin, will discuss with Dr. [**Last Name (STitle) 6636**]
   Coronary Artery Disease s/p CABG (LIMA to LAD and SVG to RCA). Currntly
   complaining of chest tightness in the setting of rapid ventricular
   rates. Troponins slightly elevated at 0.2 and peaked 0.26.  Trend not
   available from [**Location (un) **]. EKG without ischemic changes.
   - continue simvastatin
   - continue metoprolol
   - not on aspirin, will discuss with cardiologist
   Aortic Valve Replacement (bioprosthetic): Not anticoagulated.
   Performed in [**2147**].  Echocardiogram with preserved systolic function and
   well placed valve.
   Hypertension:
   - holding antihypertensives
   Hyperlipidemia:
   - simvastatin
   Diastolic Congestive Heart Failure:  Volume overload on CXR with left
   sided effusion s/p thoracentesis with transudate.
   - goal I/O - 500 to 1 L
   - control blood pressures as tolerated
   - continue beta blocker and calcium channel blocker for atrial
   fibrillation
   Back Wound:  Patient with stage II ulcer on back from burn injury at
   [**Location (un) **].
   - Silvadene 1% cream to coccyx [**Hospital1 **]
   - wound care consult
   FEN: No IVF, monitor electrolytes, full liquids for now
   Access: triple lumen placed at OSH, will attempt to place peripherals
   Prophylaxis: pneumoboots
   Code: Full
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2154-11-10**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-11-12 09:48:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2154-11-11**] 12:03 PM
 NON-INVASIVE VENTILATION - START [**2154-11-11**] 03:24 PM
 NASAL SWAB - At [**2154-11-12**] 06:21 AM
   Extubated yesterday AM, remains extubated.
   Required BiPAP due to ventilatory distress.  Noted to have some
   secretions.
   Experiencing some anxiety --> received ativan 0.5 mg.
   Experienced tachycardia, A-fib with RVR --> lopressor IVP
   Right femoral line placed this AM for venous access.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-10**] 10:00 AM
   Meropenem - [**2154-11-11**] 11:28 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-11-11**] 03:45 PM
   Metoprolol - [**2154-11-11**] 06:00 PM
   Lorazepam (Ativan) - [**2154-11-11**] 06:30 PM
   Pantoprazole (Protonix) - [**2154-11-11**] 07:33 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-11-12**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 78 (61 - 102) bpm
   BP: 179/74(118) {120/47(71) - 183/79(118)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,312 mL
                                                                     94 mL
   PO:
             TF:
   IVF:
                                                                  1,212 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    710 mL
   Urine:
                                                                  1,215 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     97 mL
                                                                   -617 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 526 (438 - 794) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.31/69/84.[**Numeric Identifier 1625**]/34/4
   Ve: 6.7 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   93 K/uL
   118 mg/dL
   1.7 mg/dL
   34 mEq/L
   4.4 mEq/L
   69 mg/dL
   105 mEq/L
   147 mEq/L
   28.7 %
   6.5 K/uL
        [image002.jpg]
                            [**2154-11-11**]  02:46 PM
                            [**2154-11-11**]  04:21 PM
                            [**2154-11-11**]  04:40 PM
                            [**2154-11-11**]  09:48 PM
                            [**2154-11-11**]  11:26 PM
                            [**2154-11-12**]  01:16 AM
                            [**2154-11-12**]  02:53 AM
                            [**2154-11-12**]  02:57 AM
                            [**2154-11-12**]  06:37 AM
                            [**2154-11-12**]  07:25 AM
   WBC
   6.5
   Hct
   30.3
   28.7
   Plt
   93
   Cr
   1.5
   1.7
   TCO2
   35
   36
   38
   36
   37
   38
   36
   Glucose
   115
   118
   Other labs: PT / PTT / INR:12.6/27.1/1.1, CK / CKMB /
   Troponin-T:114/4/0.26, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:9.1
   mg/dL, Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   Respiratory distress/failure.
   RESPIRATORY FAILURE -- insufficient progress on BiPAP since
   extubation.  Concern for COPD exacerbation, perhaps CHF, on background
   of left hemidiaphragm paresis.  Plan to repeat intubation to protect
   airway and assist ventilation.  Monitor ABG.  F/U CXR.  Would check
   cardiac echo.  Need to consider trach if no obvious rapidly reversible
   etiology determined.
   GI BLEED -- clinically stable.  Monitor Hct serially.
   A-FIB -- recurrent.  Improved control with prn beta-blocker.  Monitor
   HR.  r/o MI protocol.
   HEMATOMA, Groin -- L >> R.  Clinically stable.  Attributed to
   thrombocytopenia, and perhaps instrumentation vs. spontaneous.
   RENAL FAILURE -- suspect related to net diuresis (pre-renal).  Would
   hold on net diuresis, check Cardiac Echo.
   HYPERNATREMIA -- replete free H2O to Na < 147.
   THROMBOCYTOPENIA -- improving.  Attributed to medications.
   DIGOXIN TOXICITY -- resolved.  Monitor level.
   NUTRITIONAL SUPPORT -- initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-11-10**] 02:00 PM
   Multi Lumen - [**2154-11-12**] 08:34 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2154-11-13 07:59:00 Physician Resident Progress Note
Chief Complaint: Hypercarbic Resp failure, GIB
   24 Hour Events:
 MULTI LUMEN - START [**2154-11-12**] 08:34 AM
 NON-INVASIVE VENTILATION - STOP [**2154-11-12**] 09:45 AM
 INVASIVE VENTILATION - START [**2154-11-12**] 09:45 AM
 TRANSTHORACIC ECHO - At [**2154-11-12**] 11:29 AM
   - poor mental status, re-intubated after rounds to protect airway
   - ABG: 7.31/69/84 (bipap),99%. repeat after intubation ->
   7.36/61/69/36
   - right femoral line placed. Picc not until tomorrow
   - in AM tachy ->10IV lopressor-> 80s. Then just after 8pm dose of
   lopressor got brady to 30s, lost MAPS, given atropine x1, HR back up to
   50s, EKG showed (slow afib with nodal block, likely some underlying
   conduction disease).  Called cards, but did not give glucagon as she
   remained stable. D/C'd lopressor and digoxin.
   - increased free water bolus to 250q6, hypernatremia: 147 -> 146 -> 147
   so increased to 250 q4
   - HCT stable 28.7 (30.3)
   - OG placed, tube feeds started
   - ECHO -> EF 50%, severe Pulm regurg, mild pulm HTN
   - Cardiac Enzymes -> flat
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-12**] 09:00 AM
   Meropenem - [**2154-11-12**] 11:10 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-11-12**] 09:00 AM
   Fentanyl - [**2154-11-12**] 12:00 PM
   Lansoprazole (Prevacid) - [**2154-11-12**] 07:28 PM
   Atropine - [**2154-11-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**12-22**] pt sedation
   Flowsheet Data as of  [**2154-11-13**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 71 (36 - 133) bpm
   BP: 163/66(101) {119/45(67) - 173/92(124)} mmHg
   RR: 15 (9 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,023 mL
                                                                  1,071 mL
   PO:
             TF:
                                                                    103 mL
                                                                    185 mL
   IVF:
                                                                  1,820 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,238 mL
                                                                    300 mL
   Urine:
                                                                    938 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    785 mL
                                                                    771 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 526 (526 - 526) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/57/81.[**Numeric Identifier 253**]/33/6
   Ve: 6.5 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: pupils constricted
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   113 K/uL
   8.9 g/dL
   163 mg/dL
   1.5 mg/dL
   33 mEq/L
   4.4 mEq/L
   68 mg/dL
   108 mEq/L
   146 mEq/L
   25.6 %
   7.7 K/uL
        [image002.jpg]
                            [**2154-11-12**]  02:53 AM
                            [**2154-11-12**]  02:57 AM
                            [**2154-11-12**]  06:37 AM
                            [**2154-11-12**]  07:25 AM
                            [**2154-11-12**]  11:16 AM
                            [**2154-11-12**]  01:05 PM
                            [**2154-11-12**]  02:46 PM
                            [**2154-11-12**]  08:28 PM
                            [**2154-11-13**]  04:25 AM
                            [**2154-11-13**]  04:32 AM
   WBC
   6.5
   7.7
   Hct
   28.7
   25.6
   Plt
   93
   113
   Cr
   1.7
   1.4
   1.5
   TropT
   0.20
   0.17
   0.20
   TCO2
   37
   38
   36
   37
   36
   35
   Glucose
   118
   126
   163
   Other labs: PT / PTT / INR:13.0/29.9/1.1, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:8.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
   Impression: 82 year old female with a history of coronary artery
   disease s/p CABG, aortic valve replacement, atrial fibrillation and
   COPD on home oxygen who presented to OSH on [**2154-11-4**] with hypotension,
   bradycardia and hypercarbic respiratory failure now transferred for
   management of gastrointestinal bleeding.
   Hypercarbic Respiratory Failure:  At OSH was extubated [**2154-11-5**], but
   re-intubated [**11-10**] at [**Hospital1 54**] for hypercarbic respiratory failure. Then
   extubated [**11-11**], put on intermittent bipap o/n and now reintubated this
   am. Post intubation abg 7.32/69/188
   - Continue solumedrol 40 [**Hospital1 **] and consider transition to prednisone
   tommorow
   - Vanco/[**Last Name (un) **] day 3 for empiric coverate of nosomial pna
   - sputum cx
   - continue advair, ipratropium, home xopenex
   - completed 5 day course of azithromycin
   -Cycle CE, rpt EKG. TTE ordered.
   Acute Renal Failure: Baseline creatinine 1.0.  Currently 1.7 up from
   [**11-24**] yesterday. (was 2.6 on presentation to [**Location (un) **] on [**2154-11-4**]).
   Thought tot be [**12-22**] ATN. Currently making good urine ouput.
   - will continue to monitor. Will be very cautious with diuresis
   - renally dose medications
   Gastrointestinal Bleeding:  Patient had been having dark guaiac
   positive stools since admission to [**Location (un) **].  No EGD at OSH. Her
   hematocrit on admission was 19.4 and per reports she received 2 units
   of packed red blood cells. [**11-10**] received 2 U PRBC.-  has not received
   any since then. Her hematocrit is currently 28.7. Currently HD
   stable.
   - active type and screen
   - triple lumen for access, will try for PICC access
   - transfusion goal > 25
   - PO PPI daily
   - f/u GI recs
   Thrombocytopenia:  Unclear etiology.  Thought at outside hospital to be
   secondary to Zosyn.  Platelet count increasing from nadir of 56.
   Negative Pf4 from [**2147**]. Now 79.  PF4 antibodies negative.
   - holding heparin products
   - monitor platelet count
   - transfuse for platelets < 50 while actively bleeding
   Atrial Fibrillation:  In rapid ventricular response on admission, which
   improved with IV metoprolol.  Off digoxin and tikosyn since admission
   to outside hospital.
   - continue metoprolol at 12.5 mg [**Hospital1 **]
   - cont  diltiazem 60 QID
   - currently not anticoagulated secondary to gastrointestinal bleeding
   - holding tykosin and digoxin
   Coronary Artery Disease: s/p CABG (LIMA to LAD and SVG to RCA)Troponins
   slightly elevated at 0.2 and peaked 0.26.  Trend not available from
   [**Location (un) **]. EKG without ischemic changes.
   - continue simvastatin
   - continue metoprolol
   - cycling CE and checking serial EKG
s today
   Aortic Valve Replacement (bioprosthetic): Not anticoagulated.
   Performed in [**2147**].  Echocardiogram with preserved systolic function and
   well placed valve at outside hospital. Will recheck TTE today.
   Hypertension:
   - holding antihypertensives today
   Hyperlipidemia:
   - simvastatin
   Diastolic Congestive Heart Failure:  Volume overload on CXR with left
   sided effusion s/p thoracentesis with transudate on admission. Now R
   sided effusion and LLL c/w atelectasis
   - goal I/O - 500
   - control blood pressures as tolerated
   - continue beta blocker and calcium channel blocker for atrial
   fibrillation
   Back Wound:  Patient with stage II ulcer on back from burn injury at
   [**Location (un) **].
   - Silvadene 1% cream to coccyx [**Hospital1 **]
   - wound care consulted
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2154-11-12**] 04:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2154-11-10**] 02:00 PM
   Multi Lumen - [**2154-11-12**] 08:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-11-13 09:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2154-11-12**] 08:34 AM
 NON-INVASIVE VENTILATION - STOP [**2154-11-12**] 09:45 AM
 INVASIVE VENTILATION - START [**2154-11-12**] 09:45 AM
 TRANSTHORACIC ECHO - At [**2154-11-12**] 11:29 AM
   Remains intubated, mechanically ventilated.
   Experienced bradycardia following beta-blocker dosing.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-12**] 09:00 AM
   Meropenem - [**2154-11-12**] 11:10 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2154-11-12**] 12:00 PM
   Lansoprazole (Prevacid) - [**2154-11-12**] 07:28 PM
   Atropine - [**2154-11-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea, Bradycardia
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-11-13**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 84 (36 - 84) bpm
   BP: 160/55(92) {119/45(67) - 173/72(111)} mmHg
   RR: 18 (9 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,023 mL
                                                                  1,135 mL
   PO:
             TF:
                                                                    103 mL
                                                                    229 mL
   IVF:
                                                                  1,820 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  1,238 mL
                                                                    380 mL
   Urine:
                                                                    938 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    785 mL
                                                                    755 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/57/81.[**Numeric Identifier 253**]/33/6
   Ve: 6.5 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   113 K/uL
   163 mg/dL
   1.5 mg/dL
   33 mEq/L
   4.4 mEq/L
   68 mg/dL
   108 mEq/L
   146 mEq/L
   25.6 %
   7.7 K/uL
        [image002.jpg]
                            [**2154-11-12**]  02:53 AM
                            [**2154-11-12**]  02:57 AM
                            [**2154-11-12**]  06:37 AM
                            [**2154-11-12**]  07:25 AM
                            [**2154-11-12**]  11:16 AM
                            [**2154-11-12**]  01:05 PM
                            [**2154-11-12**]  02:46 PM
                            [**2154-11-12**]  08:28 PM
                            [**2154-11-13**]  04:25 AM
                            [**2154-11-13**]  04:32 AM
   WBC
   6.5
   7.7
   Hct
   28.7
   25.6
   Plt
   93
   113
   Cr
   1.7
   1.4
   1.5
   TropT
   0.20
   0.17
   0.20
   TCO2
   37
   38
   36
   37
   36
   35
   Glucose
   118
   126
   163
   Other labs: PT / PTT / INR:13.0/29.9/1.1, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:8.8
   mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory failure.
   RESPIRATORY FAILURE
 improved following re-intubation.  Suspect
   component of COPD and pulmonary hypertension.  Concern for cardiac
   etiology for respiratory failure, such as cardiac ischemia
 pulmonary
   edema.  Also with valvular heart disease
 s/p AVR.  Need to optimize
   cardiac function.  Otherwise, need to consider trach if no obvious
   rapidly reversible etiology determined.
   GI BLEED -- clinically stable.  Guiac stool.  Monitor Hct serially.
   BRADYCARDIA
 pharmacological related.  Need to assess pharmacological
   agents, optimize regimen.
   A-FIB -- recurrent.  Improved control with prn beta-blocker.  Monitor
   HR.
   ANEMIA
 attributed to groin hematoma and phlebotomy.  Continue
   transfusion to Hct >28
   HEMATOMA, Groin -- L >> R.  Clinically stable.  Attributed to
   thrombocytopenia, and perhaps instrumentation vs. spontaneous.
   Consider imaging to further assess.
   RENAL FAILURE -- suspect related to net diuresis (pre-renal).  Would
   hold on net diuresis, check Cardiac Echo.
   HYPERNATREMIA -- replete free H2O to Na < 147.
   THROMBOCYTOPENIA -- improving.  Attributed to medications.
   DIGOXIN TOXICITY -- resolved.  Monitor Digoxin level.
   NUTRITIONAL SUPPORT -- initiate TF.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2154-11-12**] 04:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-11-10**] 02:00 PM
   Multi Lumen - [**2154-11-12**] 08:34 AM
   PICC Line - [**2154-11-13**] 09:20 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2154-11-14 07:51:00 Physician Resident Progress Note
Chief Complaint: Hypercarbic resp failure, GIB
   24 Hour Events:
 PICC LINE - START [**2154-11-13**] 09:20 AM
 MULTI LUMEN - STOP [**2154-11-13**] 11:28 AM
   Events:
   - vent changed from AC to PS (15 cm H20)
   - had atrial flutter in PM, hemodynamically stable
   Lines:
   - PICC placed, pulled back 4 cm, 2nd CXR confirmed correct placement.
   - pulled femoral line
   - PM lytes (Na still hypernatremic at 146, Cre improved to 1.4)
   - guiac stools
   Labs:
   - TTE showed elevated E/E', PCWP>18, ?diastolic dysfunction
   Meds:
   - started steroid taper (prednisone 60 daily)
   - abx duration: Vanc/[**Last Name (un) **] x8 days (end date [**11-17**])
   - HTN start carvedilol 3.125 [**Hospital1 **] => BPs better with SBPs in 130s
   - diuresis, lasix IV goal -500 L, +0.6 L, but held lasix b/c mostly
   free water boluses, and patient is hypernatremic and volume contracted.
   Consults:
   - cards consult in AM if still tachy/volume status not improving
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-12**] 09:00 AM
   Meropenem - [**2154-11-14**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 30 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2154-11-13**] 10:05 AM
   Lansoprazole (Prevacid) - [**2154-11-13**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt with limited ability to communicate [**12-22**]
   intubation and sedation but denies pain
   Flowsheet Data as of  [**2154-11-14**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 79 (77 - 106) bpm
   BP: 149/62(92) {102/53(77) - 170/116(268)} mmHg
   RR: 19 (13 - 69) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                  2,609 mL
                                                                  1,034 mL
   PO:
             TF:
                                                                    789 mL
                                                                    305 mL
   IVF:
                                                                    481 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  1,545 mL
                                                                    480 mL
   Urine:
                                                                  1,545 mL
                                                                    360 mL
   NG:
   Stool:
   120 mL
   Drains:
   Balance:
                                                                  1,064 mL
                                                                    554 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 263 (263 - 451) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/60/77.[**Numeric Identifier 96**]/32/7
   Ve: 4.7 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: pupils constricted
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), irreg
   irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, Rash: new plaque-like rash on feet bilaterally, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   106 K/uL
   8.4 g/dL
   199 mg/dL
   1.3 mg/dL
   32 mEq/L
   4.4 mEq/L
   71 mg/dL
   107 mEq/L
   144 mEq/L
   24.6 %
   8.8 K/uL
        [image002.jpg]
                            [**2154-11-12**]  07:25 AM
                            [**2154-11-12**]  11:16 AM
                            [**2154-11-12**]  01:05 PM
                            [**2154-11-12**]  02:46 PM
                            [**2154-11-12**]  08:28 PM
                            [**2154-11-13**]  04:25 AM
                            [**2154-11-13**]  04:32 AM
                            [**2154-11-13**]  04:27 PM
                            [**2154-11-13**]  05:16 PM
                            [**2154-11-14**]  05:38 AM
   WBC
   7.7
   8.8
   Hct
   25.6
   26.7
   24.6
   Plt
   113
   106
   Cr
   1.4
   1.5
   1.4
   1.3
   TropT
   0.20
   0.17
   0.20
   TCO2
   36
   37
   36
   35
   37
   Glucose
   126
   163
   183
   199
   Other labs: PT / PTT / INR:13.0/29.9/1.1, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Lactic Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
   Impression: 82 year old female with a history of coronary artery
   disease s/p CABG, aortic valve replacement, atrial fibrillation and
   COPD on home oxygen who presented to OSH on [**2154-11-4**] with hypotension,
   bradycardia and hypercarbic respiratory failure transferred here [**11-9**]
   for management of gastrointestinal bleeding.
   Hypercarbic Respiratory Failure:  At OSH was extubated [**2154-11-5**], but
   re-intubated [**11-10**] at [**Hospital1 54**] for hypercarbic respiratory failure. Then
   extubated [**11-11**], put on intermittent bipap o/n and reintubated [**12-22**] AMS
   and hypercarbic resp failure [**11-12**]. CE flat and EKG stable [**11-12**]. TTE
   with no focal wall motion abnormalities
   -Decr steroids to Pred 40 daily today
   - Vanco/[**Last Name (un) **] day 5 (of 8) for empiric coverate of nosomial pna
   - sputum cx pending
   - continue advair, ipratropium, home xopenex
   - completed 5 day course of azithromycin
   -? If HTN and incr HR lead to failure of extubation last time
   Acute Renal Failure: Baseline creatinine 1.0.  Currently 13  down from
   1.5 yesterday. (was 2.6 on presentation to [**Location (un) **] on [**2154-11-4**]).
   Thought to be [**12-22**] ATN. Currently making good urine ouput.
   - will continue to monitor. Will be very cautious with diuresis
   - renally dose medications
   Gastrointestinal Bleeding:  Patient had been having dark guaiac
   positive stools since admission to [**Location (un) **].  No EGD at OSH. Her
   hematocrit on admission was 19.4 and per reports she received 2 units
   of packed red blood cells. [**11-10**] received 2 U PRBC.-  has not received
   any since then. Her hematocrit here has been stable around 25 (24.6
   today) without any bloody BM
s. Currently HD stable.
   - active type and screen
   - PICC access currently
   - transfusion goal > 25
   - PO PPI daily
   Thrombocytopenia:  Unclear etiology.  Thought at outside hospital to be
   secondary to Zosyn.  Platelet count increasing from nadir of 56. Now
   106.  PF4 antibodies negative this admission.
   - holding heparin products
   - monitor platelet count
   - transfuse for platelets < 50 or active bleeding
   Atrial Fibrillation:  In rapid ventricular response on admission, which
   improved with IV metoprolol.  Off digoxin and tikosyn since admission
   to outside hospital.
   -holding  diltiazem for now
   - currently not anticoagulated secondary to gastrointestinal bleeding
   - holding tykosin and digoxin
   Coronary Artery Disease: s/p CABG (LIMA to LAD and SVG to RCA). EKG
   without ischemic changes and CE flat yesterday.
   - continue simvastatin
   - switched metoprolol to coreg [**11-13**] after bradycardia and hypotension
   [**11-12**].
   Aortic Valve Replacement (bioprosthetic): Not anticoagulated.
   Performed in [**2147**]. TTE here with EF 50%, severe pulm regurg and mild
   pulm HTN
   Hypertension:
   - cont Coreg
   Hyperlipidemia:
   - simvastatin
   Diastolic Congestive Heart Failure:  Volume overload on CXR with left
   sided effusion s/p thoracentesis with transudate on admission. Now R
   sided effusion and LLL c/w atelectasis
   - goal I/O  equal today
   - control blood pressures as tolerated
   Back Wound:  Patient with stage II ulcer on back from burn injury at
   [**Location (un) **].
   - Silvadene 1% cream to coccyx [**Hospital1 **]
   - wound care consulted
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2154-11-14**] 02:43 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2154-11-10**] 02:00 PM
   PICC Line - [**2154-11-13**] 09:20 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2154-11-15 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**11-14**]
   -Talked to son, [**Name (NI) **] [**Name (NI) 3622**], and updated him. He will be in Saturday for
   a family meeting
   - increased Coreg to 6.25 PO BID
   -decreased prednisone to 40 daily
   - d/c'd inhaled fluticasone as pt is on systemic steroids
   - cx NGTD except yeast on [**11-10**] urine
   -FiO2 weaned to 35%
   -pt remained in aflutter
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-14**] 07:53 AM
   Meropenem - [**2154-11-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-15**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 89 (74 - 100) bpm
   BP: 148/62(92) {120/54(75) - 168/81(293)} mmHg
   RR: 19 (17 - 48) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                  3,354 mL
                                                                    965 mL
   PO:
             TF:
                                                                    960 mL
                                                                    269 mL
   IVF:
                                                                    764 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    425 mL
   Urine:
                                                                  1,090 mL
                                                                    325 mL
   NG:
   Stool:
                                                                    120 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,144 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 392 (299 - 512) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 36
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.33/68/85.[**Numeric Identifier 128**]/34/6
   Ve: 5.2 L/min
   PaO2 / FiO2: 243
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   8.0 g/dL
   121 mg/dL
   1.0 mg/dL
   34 mEq/L
   4.5 mEq/L
   63 mg/dL
   103 mEq/L
   141 mEq/L
   24.1 %
   9.7 K/uL
        [image002.jpg]
                            [**2154-11-12**]  01:05 PM
                            [**2154-11-12**]  02:46 PM
                            [**2154-11-12**]  08:28 PM
                            [**2154-11-13**]  04:25 AM
                            [**2154-11-13**]  04:32 AM
                            [**2154-11-13**]  04:27 PM
                            [**2154-11-13**]  05:16 PM
                            [**2154-11-14**]  05:38 AM
                            [**2154-11-15**]  04:30 AM
                            [**2154-11-15**]  06:22 AM
   WBC
   7.7
   8.8
   9.7
   Hct
   25.6
   26.7
   24.6
   24.1
   Plt
   113
   106
   105
   Cr
   1.4
   1.5
   1.4
   1.3
   1.0
   TropT
   0.20
   0.17
   0.20
   TCO2
   36
   35
   37
   37
   Glucose
   126
   163
   183
   199
   121
   Other labs: PT / PTT / INR:12.9/32.2/1.1, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Lactic Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
   Impression: 82 year old female with a history of coronary artery
   disease s/p CABG, aortic valve replacement, atrial fibrillation and
   COPD on home oxygen who presented to OSH on [**2154-11-4**] with hypotension,
   bradycardia and hypercarbic respiratory failure transferred here [**11-9**]
   for management of gastrointestinal bleeding.
   Hypercarbic Respiratory Failure:  At OSH was extubated [**2154-11-5**], but
   re-intubated [**11-10**] at [**Hospital1 54**] for hypercarbic respiratory failure. Then
   extubated [**11-11**], put on intermittent bipap o/n and reintubated [**12-22**] AMS
   and hypercarbic resp failure [**11-12**]. CE flat and EKG stable [**11-12**]. TTE
   with no focal wall motion abnormalities
   -Decr steroids to Pred 40 daily today
   - Vanco/[**Last Name (un) **] day 5 (of 8) for empiric coverate of nosomial pna
   - sputum cx pending
   - continue advair, ipratropium, home xopenex
   - completed 5 day course of azithromycin
   -? If HTN and incr HR lead to failure of extubation last time
   Acute Renal Failure: Baseline creatinine 1.0.  Currently 13  down from
   1.5 yesterday. (was 2.6 on presentation to [**Location (un) **] on [**2154-11-4**]).
   Thought to be [**12-22**] ATN. Currently making good urine ouput.
   - will continue to monitor. Will be very cautious with diuresis
   - renally dose medications
   Gastrointestinal Bleeding:  Patient had been having dark guaiac
   positive stools since admission to [**Location (un) **].  No EGD at OSH. Her
   hematocrit on admission was 19.4 and per reports she received 2 units
   of packed red blood cells. [**11-10**] received 2 U PRBC.-  has not received
   any since then. Her hematocrit here has been stable around 25 (24.6
   today) without any bloody BM
s. Currently HD stable.
   - active type and screen
   - PICC access currently
   - transfusion goal > 25
   - PO PPI daily
   Thrombocytopenia:  Unclear etiology.  Thought at outside hospital to be
   secondary to Zosyn.  Platelet count increasing from nadir of 56. Now
   106.  PF4 antibodies negative this admission.
   - holding heparin products
   - monitor platelet count
   - transfuse for platelets < 50 or active bleeding
   Atrial Fibrillation:  In rapid ventricular response on admission, which
   improved with IV metoprolol.  Off digoxin and tikosyn since admission
   to outside hospital.
   -holding  diltiazem for now
   - currently not anticoagulated secondary to gastrointestinal bleeding
   - holding tykosin and digoxin
   Coronary Artery Disease: s/p CABG (LIMA to LAD and SVG to RCA). EKG
   without ischemic changes and CE flat yesterday.
   - continue simvastatin
   - switched metoprolol to coreg [**11-13**] after bradycardia and hypotension
   [**11-12**].
   Aortic Valve Replacement (bioprosthetic): Not anticoagulated.
   Performed in [**2147**]. TTE here with EF 50%, severe pulm regurg and mild
   pulm HTN
   Hypertension:
   - cont Coreg
   Hyperlipidemia:
   - simvastatin
   Diastolic Congestive Heart Failure:  Volume overload on CXR with left
   sided effusion s/p thoracentesis with transudate on admission. Now R
   sided effusion and LLL c/w atelectasis
   - goal I/O  equal today
   - control blood pressures as tolerated
   Back Wound:  Patient with stage II ulcer on back from burn injury at
   [**Location (un) **].
   - Silvadene 1% cream to coccyx [**Hospital1 **]
   - wound care consulted
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2154-11-15**] 03:44 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-11-10**] 02:00 PM
   PICC Line - [**2154-11-13**] 09:20 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-11-15 11:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on AC, tolerating IPS this AM.
   Developed a-flutter.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2154-11-14**] 07:53 AM
   Meropenem - [**2154-11-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-11-15**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 86 (74 - 100) bpm
   BP: 175/70(109) {120/54(75) - 175/81(293)} mmHg
   RR: 17 (12 - 48) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                  3,354 mL
                                                                  1,062 mL
   PO:
             TF:
                                                                    960 mL
                                                                    319 mL
   IVF:
                                                                    764 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    645 mL
   Urine:
                                                                  1,090 mL
                                                                    545 mL
   NG:
   Stool:
                                                                    120 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,144 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 401 (299 - 401) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 36
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.33/68/85/34/6
   Ve: 5 L/min
   PaO2 / FiO2: 243
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.0 g/dL
   105 K/uL
   121 mg/dL
   1.0 mg/dL
   34 mEq/L
   4.5 mEq/L
   63 mg/dL
   103 mEq/L
   141 mEq/L
   24.1 %
   9.7 K/uL
        [image002.jpg]
                            [**2154-11-12**]  01:05 PM
                            [**2154-11-12**]  02:46 PM
                            [**2154-11-12**]  08:28 PM
                            [**2154-11-13**]  04:25 AM
                            [**2154-11-13**]  04:32 AM
                            [**2154-11-13**]  04:27 PM
                            [**2154-11-13**]  05:16 PM
                            [**2154-11-14**]  05:38 AM
                            [**2154-11-15**]  04:30 AM
                            [**2154-11-15**]  06:22 AM
   WBC
   7.7
   8.8
   9.7
   Hct
   25.6
   26.7
   24.6
   24.1
   Plt
   113
   106
   105
   Cr
   1.4
   1.5
   1.4
   1.3
   1.0
   TropT
   0.20
   0.17
   0.20
   TCO2
   36
   35
   37
   37
   Glucose
   126
   163
   183
   199
   121
   Other labs: PT / PTT / INR:12.9/32.2/1.1, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Lactic Acid:0.9 mmol/L, Albumin:3.5 g/dL, LDH:284 IU/L, Ca++:8.4
   mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE
 improved following re-intubation.  Suspect
   component of COPD and pulmonary hypertension.  Concern for cardiac
   etiology for respiratory failure, such as cardiac ischemia
 pulmonary
   edema.  Also with valvular heart disease s/p AVR.  Need to optimize
   cardiac function.  Otherwise, need to consider trach if no obvious
   rapidly reversible etiology determined.
   GI BLEED -- clinically stable.  Continue to guiac stool.  Monitor Hct
   serially.  No plans for endoscopy at this time.
   BRADYCARDIA
 pharmacological related.  Now off beta-blockers.
   A-FIB/FLUTTER -- recurrent A-fib, now flutter.  Rate control with
   Diltiazem.  Consider anticoagulation.
   ANEMIA
 attributed to groin hematoma and phlebotomy.  Continue
   transfusion to Hct >28.
   HEMATOMA, Groin -- L >> R.  Clinically stable.  Attributed to
   thrombocytopenia, and perhaps instrumentation vs. spontaneous.
   Consider imaging to further assess.
   RENAL FAILURE -- suspect related to net diuresis (pre-renal).  Would
   hold on net diuresis, check Cardiac Echo.
   THROMBOCYTOPENIA -- improving.  Attributed to medications.
   DIGOXIN TOXICITY -- resolved.  Monitor Digoxin level.
   NUTRITIONAL SUPPORT -- initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2154-11-10**] 02:00 PM
   PICC Line - [**2154-11-13**] 09:20 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2154-11-21 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2154-11-20**] 04:43 PM
 PEG INSERTION - At [**2154-11-20**] 05:29 PM
   Remains mechanically ventilated via trach.
   s/p Trach and PEG yesterday.  Tolerated well.
   Awake, interactive.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2154-11-21**] 09:14 AM
   Fentanyl - [**2154-11-21**] 09:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-11-21**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 96 (61 - 101) bpm
   BP: 142/76(93) {107/42(63) - 154/77(93)} mmHg
   RR: 14 (8 - 18) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
           Total In:
                                                                    892 mL
                                                                    456 mL
   PO:
           TF:
                                                                      1 mL
   IVF:
                                                                    481 mL
                                                                    162 mL
   Blood products:
                                                                    410 mL
                                                                    294 mL
   Total out:
                                                                    695 mL
                                                                    370 mL
   Urine:
                                                                    695 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    197 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 402 (402 - 402) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 4.4 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, Trach
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   122 K/uL
   79 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.0 mEq/L
   39 mg/dL
   106 mEq/L
   144 mEq/L
   24.9 %
   4.2 K/uL
        [image002.jpg]
                            [**2154-11-17**]  09:27 AM
                            [**2154-11-17**]  04:14 PM
                            [**2154-11-18**]  04:26 AM
                            [**2154-11-18**]  02:29 PM
                            [**2154-11-18**]  05:00 PM
                            [**2154-11-19**]  12:00 AM
                            [**2154-11-19**]  04:45 AM
                            [**2154-11-19**]  07:46 AM
                            [**2154-11-20**]  04:32 AM
                             [**2154-11-21**]  03:32 AM
   WBC
   8.6
   8.5
   4.6
   5.0
   6.8
   4.2
   Hct
   26.6
   28.5
   25.2
   26.4
   26.3
   24.9
   Plt
   67
   70
   61
   70
   65
   122
   Cr
   0.8
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   43
   44
   Glucose
   126
   125
   109
   154
   135
   108
   79
   Other labs: PT / PTT / INR:12.8/28.7/1.1, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Fibrinogen:105 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL,
   LDH:284 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Resp failure (failed extubation X 3)
 s/p Trach & PEG
   anemia
 stable.
   GIB
 coffee grounds related to PEG.
   Groin hematoma
 stable.
   a-fib/bradycardia/sinus pauses
   thrombocytopenia
 contribution from zosyn?; HIT neg.  Monitor plts
   count.
   hyperglycemia
   Agree with plan to continue vent support.  Will decrease RR given that
   VBG is slightly alkalotic-- follow vbgs.  Scheduled for trach and PEG
   placement today by IP service today. Will then continue wean attempts
   as tolerated.   BP and HR remain better controlled with dilt, increased
   coreg dose. We continue to hold anticoag given thrombocytopenia and
   anemia. We have discussed restarting hep gtt after trach/peg placement
   given CHADs score but feel risk of bleeding exceeds this risk. Will d/c
   prednisone today. Continue MDIs, sx, and pulm toilet.  S/p course of
   vanco/[**Last Name (un) 430**] for pna.
        Hct reamins stable and suspect multifactorial etiology of
   anemia with probable slow GIB, hematoma, phlebotomy, and oozing from
   PICC line all factors.  Iron studies c/w ACD.  GI with no plan for
   scope. Continue to guiac stool.  Monitor hematoma on groin and
   back--this appears stable to resolving.  Keep active T and C.
        Thrombocytopenia remains stable but not improving since d/c of
   antibx to which this was attributed. Will stop PPI. No other obvious
   medications as potential cause. Supplement B12.  Consider heme consult
   for further recs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-11-13**] 09:20 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2154-11-23 11:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains mechanically ventilated via trach.  Currently tolerating IPS
   mode.
   Episodes of hypertension, requiring adjustment of antihypertensive
   medications.
   Coffee ground emesis resoved.
   Stool trace guiac positive.
   Awake, interactive, appropriate.
   Denies dyspnea, chest pain, abd pain.
   Experineced some aggitation last PM, responded to Haldol.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2154-11-22**] 03:08 PM
   Pantoprazole (Protonix) - [**2154-11-22**] 11:59 PM
   Metoprolol - [**2154-11-23**] 06:01 AM
   Diltiazem - [**2154-11-23**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2154-11-23**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (97
   HR: 75 (52 - 99) bpm
   BP: 152/97(103) {115/32(56) - 196/151(158)} mmHg
   RR: 23 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                  1,193 mL
                                                                    152 mL
   PO:
             TF:
                                                                    186 mL
   IVF:
                                                                    966 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                    905 mL
                                                                    300 mL
   Urine:
                                                                    755 mL
                                                                    300 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    288 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 409 (409 - 409) mL
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 41
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: ///31/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   90 K/uL
   106 mg/dL
   1.1 mg/dL
   31 mEq/L
   4.0 mEq/L
   36 mg/dL
   107 mEq/L
   145 mEq/L
   31.8 %
   7.2 K/uL
        [image002.jpg]
                            [**2154-11-18**]  05:00 PM
                            [**2154-11-19**]  12:00 AM
                            [**2154-11-19**]  04:45 AM
                            [**2154-11-19**]  07:46 AM
                            [**2154-11-20**]  04:32 AM
                             [**2154-11-21**]  03:32 AM
                             [**2154-11-21**]  03:07 PM
                             [**2154-11-22**]  04:35 AM
                             [**2154-11-22**]  04:12 PM
                             [**2154-11-23**]  04:49 AM
   WBC
   4.6
   5.0
   6.8
   4.2
   6.6
   7.2
   Hct
   25.2
   26.4
   26.3
   24.9
   28.4
   27.0
   29.4
   31.8
   Plt
   61
   70
   65
   122
   94
   90
   Cr
   0.9
   0.8
   0.8
   0.8
   0.9
   1.1
   Glucose
   109
   154
   135
   108
   79
   67
   106
   Other labs: PT / PTT / INR:12.8/27.5/1.1, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Fibrinogen:105 mg/dL, Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL,
   LDH:284 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   RESPRIATORY FAILURE (failed extubation X 3)
 s/p Trach.  Hope to
   continue work towards weaning from mechanical ventilation.  Obstacles
   include underlying COPD and CAD (suspect component of cardiac
   ischemia).  Monitor progress, work towards trach collar trials.  Rehab
   screening in progress.
   COPD
 continue to optimized medical regimen.  D/C steroids.
   ANEMIA
 Suspect related recent groin hematoma, and now predominately
   to phlebotomy.  Last PRBC transfusion [**2154-11-21**].  Monitor for eivdence of
   GI bleed.  Currently stable.
   GI BLEED
 coffee grounds possibly related to PEG, now resolved.  Need
   to monitor closely for GI bleed, as GI bleed was initial problem at
   time of transfer to [**Hospital1 54**].
   HYPTERTENSION -- resume and adjust PO meds.
   SKIN BURN, BACK -- local care.
   GROIN HEMATOMA
 stable.  Monitor exam.
   CARDIAC DYSRHYTHMIA -- a-fib/bradycardia/sinus pauses.  Sensitive to
   pharmacological agents.  Consider Cardiology consult to assist in
   mangement.
   THROMBOCYTOPENIA
 contribution from antibiotics (zosyn?); HIT neg.
   Monitor plts count.
   NUTRITIONAL SUPPORT
 resume TF via new PEG.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2154-11-13**] 09:20 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2154-11-26 11:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 year old female with CAD s/p CABG and AVR, AF, and COPD on home
   oxygen, presenting from OSH for management of GI bleed, and hypercarbic
   respiratory failure, with failure to extubate x3 while admitted.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-11-25**] 09:55 PM
   Lorazepam (Ativan) - [**2154-11-26**] 12:00 AM
   Pantoprazole (Protonix) - [**2154-11-26**] 08:35 AM
   Other medications:
   Atrovent, Protonix, Carvedilol, Reglan, Ativan prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-26**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 75 (54 - 93) bpm
   BP: 116/45(60) {116/18(53) - 205/128(139)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.4 kg (admission): 48.8 kg
   Height: 60 Inch
             Total In:
                                                                  1,818 mL
                                                                  1,003 mL
   PO:
             TF:
                                                                     35 mL
                                                                    162 mL
   IVF:
                                                                  1,534 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                    668 mL
                                                                    517 mL
   Urine:
                                                                    618 mL
                                                                    517 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  1,150 mL
                                                                    486 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (302 - 515) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 78
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 9.4 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant bilat)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, upper ext skin breakdown and 1+ edema
   bilat
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   57 K/uL
   79 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.6 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   31.6 %
   3.9 K/uL
        [image002.jpg]
                             [**2154-11-21**]  03:32 AM
                             [**2154-11-21**]  03:07 PM
                             [**2154-11-22**]  04:35 AM
                             [**2154-11-22**]  04:12 PM
                             [**2154-11-23**]  04:49 AM
                             [**2154-11-23**]  04:57 PM
                             [**2154-11-24**]  03:59 AM
                             [**2154-11-24**]  10:15 AM
                             [**2154-11-25**]  04:44 AM
                             [**2154-11-26**]  03:26 AM
   WBC
   4.2
   6.6
   7.2
   7.7
   4.1
   3.9
   Hct
   24.9
   28.4
   27.0
   29.4
   31.8
   30.6
   32.5
   30.8
   31.6
   Plt
   122
   94
   90
   81
   61
   57
   Cr
   0.8
   0.9
   1.1
   1.0
   0.9
   0.9
   TCO2
   32
   Glucose
   79
   67
   106
   120
   97
   79
   Other labs: PT / PTT / INR:12.2/28.7/1.0, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Fibrinogen:105 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL,
   LDH:284 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   MENTAL STATUS CHANGES- most recently related to o/n benzodiazepine
   -use Haldol prn rather than benzos for agitation
   RESP FAILURE- multifact related to pna, CHF, underlying COPD, pulm HTN
   -SBT trial today and poss change to trach mask
   -continue advair, ipratropium, home xopenex, steroids d/c
ed [**11-20**]
   -TBB even to slightly neg
   GI BLEED- Hct stable. coffee-gr emesis last 4d ago. GI svce managing
   conservatively.
   - Maintain active type and screen, PICC access
   - Transfusion goal > 25
   - PPI [**Hospital1 **]
   THROMBOPENIA- has been chronic; per Heme svce, HIT sent, dilt and
   statin dc'd. smear pending
   -also w/ stable large back and post leg hematomas prob contributing to
   some consumption
   -trx for plt <20k
   AFIB- on carvedilol, holding anticoag for GIB
   CAD s/p CABG- statin dc'd per Heme, cont BB, holding ASA for GIB
   HTN- elevated BP o/n
   - Continue carvedilol as her BP tolerates with higher holding
   parameters.
   - Close monitoring as weaning sedation and pain medication
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2154-11-25**] 09:30 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-11-25**] 07:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2154-11-28 10:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   low uop. UCx positive- ciprofloxacin started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-11-27**] 08:35 PM
   Other medications:
   RISS, Peridex, Protonix, Diltiazem, Lisinopril, Carvedilol, Reglan,
   Atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-28**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.5
C (95.9
   HR: 77 (60 - 89) bpm
   BP: 136/42(64) {115/42(63) - 168/89(90)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 46.4 kg (admission): 48.8 kg
   Height: 60 Inch
             Total In:
                                                                  2,163 mL
                                                                  2,929 mL
   PO:
             TF:
                                                                    292 mL
                                                                    260 mL
   IVF:
                                                                    951 mL
                                                                  2,289 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    425 mL
   Urine:
                                                                  1,035 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,128 mL
                                                                  2,504 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (210 - 389) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 107
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.23/67/189/27/-1
   Ve: 5.6 L/min
   PaO2 / FiO2: 540
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, BUE swelling, RUE skin
   breakdown
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   46 K/uL
   122 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.1 mEq/L
   20 mg/dL
   103 mEq/L
   134 mEq/L
   29.6 %
   2.8 K/uL
        [image002.jpg]
                             [**2154-11-22**]  04:12 PM
                             [**2154-11-23**]  04:49 AM
                             [**2154-11-23**]  04:57 PM
                             [**2154-11-24**]  03:59 AM
                             [**2154-11-24**]  10:15 AM
                             [**2154-11-25**]  04:44 AM
                             [**2154-11-26**]  03:26 AM
                             [**2154-11-27**]  04:38 AM
                             [**2154-11-27**]  04:39 PM
                             [**2154-11-28**]  03:45 AM
   WBC
   7.2
   7.7
   4.1
   3.9
   4.2
   2.8
   Hct
   29.4
   31.8
   30.6
   32.5
   30.8
   31.6
   30.9
   29.6
   Plt
   90
   81
   61
   57
   48
   46
   Cr
   1.1
   1.0
   0.9
   0.9
   0.9
   0.8
   TCO2
   32
   29
   Glucose
   106
   120
   97
   79
   96
   122
   Other labs: PT / PTT / INR:12.8/31.6/1.1, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Fibrinogen:105 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL,
   LDH:284 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR- R>L effusions
   Microbiology: UA- dirty, cx pending
   Assessment and Plan
   RESP FAILURE- multifact related to pna, CHF, underlying COPD, pulm HTN,
   s/p perc trach (#8 Portex)
   -cont PSV and SBT trials to eventually transition to trach mask
   -continue advair, ipratropium, home xopenex, steroids d/c
ed [**11-20**]
   -TBB even to slightly neg
   OLIGURIA- UA dirty, appears fluid replete
   -now on ciprofloxacin for presumed UTI
   -change foley catheter
   -monitor fluid status
   GI BLEED- Hct stable. coffee-gr emesis last 5d ago. GI svce managing
   conservatively.
   - Maintain active type and screen, PICC access
   - Transfusion goal > 25
   - PPI [**Hospital1 **]
   THROMBOPENIA- has been chronic; per Heme svce, HIT sent, dilt and
   statin dc'd. smear pending
   -also w/ stable large back and post leg hematomas prob contributing to
   some consumption
   -f/u w/ heme re: further w/u --> SPEP, UPEP, MMA
   -per Heme bone marrow bx
   -trx for plt <20k
   AFIB- on carvedilol and rate controlled, will resume coumadin post
   possible BMBx
   CAD s/p CABG- statin dc'd per Heme, cont BB, holding ASA for GIB
   HTN- better control over last 24h
   - Continue carvedilol, lisinopril
   MENTAL STATUS CHANGES- related to benzo use, now resolved
   -use Haldol prn rather than benzos for agitation
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2154-11-27**] 10:27 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-11-25**] 07:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 30

2154-11-29 11:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   plan for bone marrow bx today. nasueous this am- denies abd pain or
   emesis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2154-11-29**] 12:11 AM
   Infusions:
   Other ICU medications:
   Other medications:
   lisinopril, carvedilol, diltiazem, RISS, Peridex, Reglan, Atrovent,
   Prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-29**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 34.7
C (94.5
   HR: 64 (56 - 72) bpm
   BP: 117/87(94) {84/18(49) - 161/87(94)} mmHg
   RR: 18 (18 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 46.4 kg (admission): 48.8 kg
   Height: 60 Inch
             Total In:
                                                                  6,120 mL
                                                                  1,268 mL
   PO:
             TF:
                                                                    757 mL
                                                                    506 mL
   IVF:
                                                                  3,873 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                    535 mL
                                                                    113 mL
   Urine:
                                                                    285 mL
                                                                    113 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,585 mL
                                                                  1,155 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (300 - 450) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 77
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   tympanitic to percussion
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Rash: scattered ecchymoses
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   44 K/uL
   168 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   22 mg/dL
   105 mEq/L
   132 mEq/L
   29.4 %
   3.6 K/uL
        [image002.jpg]
                             [**2154-11-23**]  04:49 AM
                             [**2154-11-23**]  04:57 PM
                             [**2154-11-24**]  03:59 AM
                             [**2154-11-24**]  10:15 AM
                             [**2154-11-25**]  04:44 AM
                             [**2154-11-26**]  03:26 AM
                             [**2154-11-27**]  04:38 AM
                             [**2154-11-27**]  04:39 PM
                             [**2154-11-28**]  03:45 AM
                             [**2154-11-29**]  05:00 AM
   WBC
   7.2
   7.7
   4.1
   3.9
   4.2
   2.8
   3.6
   Hct
   31.8
   30.6
   32.5
   30.8
   31.6
   30.9
   29.6
   29.4
   Plt
   90
   81
   61
   57
   48
   46
   44
   Cr
   1.1
   1.0
   0.9
   0.9
   0.9
   0.8
   0.8
   TCO2
   32
   29
   Glucose
   106
   120
   97
   79
   96
   122
   168
   Other labs: PT / PTT / INR:12.3/30.6/1.0, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Fibrinogen:105 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL,
   LDH:284 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   RESP FAILURE- multifact related to pna, CHF, underlying COPD, pulm HTN,
   s/p perc trach (#8 Portex)
   -cont PSV and SBT trials to eventually transition to trach mask
   -continue advair, ipratropium, home xopenex, steroids d/c
ed [**11-20**]
   -TBB even to slightly neg
   OLIGURIA- UA dirty, appears fluid replete
   -now on ciprofloxacin for presumed UTI
   -change foley catheter
   -monitor fluid status
   GI BLEED- Hct stable. coffee-gr emesis last 5d ago. GI svce managing
   conservatively.
   - Maintain active type and screen, PICC access
   - Transfusion goal > 25
   - PPI qd
    THROMBOPENIA- has been chronic; per Heme svce, HIT sent, dilt and
   statin dc'd. smear pending
   -also w/ stable large back and post leg hematomas prob contributing to
   some consumption
   -f/u w/ heme re: further w/u --> SPEP, UPEP, MMA
   -per Heme bone marrow bx
   -trx for plt <20k
   AFIB- on carvedilol and rate controlled, will resume coumadin post
   possible BMBx
   CAD s/p CABG- statin dc'd per Heme, cont BB, holding ASA for GIB
   HTN- better control over last 24h
   - Continue carvedilol, lisinopril
   NAUSEA- gaseous distension on exam. cont reglan, give prn simethicone
   (change to scheduled x1d only) and leave G tube to gravity or low int
   wall suction transiently
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2154-11-29**] 04:40 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-11-25**] 07:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes

2154-11-30 10:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, thrombocytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had bone marrow bx yesterday for thrombocytopnia.
   Continues on ventilator on PSV 10/5.
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2154-11-29**] 12:11 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Insulin, chlorhexidine, reglan, diltiazem, lisinopril, coreg, atrovent,
   PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-11-30**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.5
C (95.9
   HR: 65 (57 - 86) bpm
   BP: 127/48(67) {95/17(34) - 142/111(114)} mmHg
   RR: 17 (7 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 46.4 kg (admission): 48.8 kg
   Height: 60 Inch
             Total In:
                                                                  2,800 mL
                                                                    974 mL
   PO:
             TF:
                                                                  1,010 mL
                                                                    479 mL
   IVF:
                                                                    240 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                    183 mL
   Urine:
                                                                    260 mL
                                                                    183 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,540 mL
                                                                    791 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 282 (282 - 561) mL
   PS : 10 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 106
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , No(t) Rhonchorous: ), Very
   diminished heart sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   52 K/uL
   128 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.8 mEq/L
   27 mg/dL
   103 mEq/L
   133 mEq/L
   29.8 %
   3.4 K/uL
        [image002.jpg]
                             [**2154-11-23**]  04:57 PM
                             [**2154-11-24**]  03:59 AM
                             [**2154-11-24**]  10:15 AM
                             [**2154-11-25**]  04:44 AM
                             [**2154-11-26**]  03:26 AM
                             [**2154-11-27**]  04:38 AM
                             [**2154-11-27**]  04:39 PM
                             [**2154-11-28**]  03:45 AM
                             [**2154-11-29**]  05:00 AM
                             [**2154-11-30**]  05:59 AM
   WBC
   7.7
   4.1
   3.9
   4.2
   2.8
   3.6
   3.4
   Hct
   30.6
   32.5
   30.8
   31.6
   30.9
   29.6
   29.4
   29.8
   Plt
   81
   61
   57
   48
   46
   44
   52
   Cr
   1.0
   0.9
   0.9
   0.9
   0.8
   0.8
   1.0
   TCO2
   32
   29
   Glucose
   120
   97
   79
   96
   122
   168
   128
   Other labs: PT / PTT / INR:12.3/30.6/1.0, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Fibrinogen:105 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL,
   LDH:284 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, CHRONIC
 INEFFECTIVE COPING
 OLIGURIA/ANURIA
 .H/O HYPERTENSION, BENIGN
 ATRIAL FLUTTER (AFLUTTER)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
   ANEMIA
   Patient's initial bicarbonate on admission was 36 suggesting that she
   had significant hypercapnia at baseline. Her failure to come off the
   ventilator may relate to the fact that she was being over-ventilated
   leading to the kidney excreting bicarbonate (serum bicarb now 28); she
   may not be able to sustain the ventilation required with that level of
   serum bicabonate. On rounds, I placed her on trach mask. So far, she
   looks comfortable. If she tires, would use "sprint/rest" weaning
   strategy to strengthen muscles.
   WBC normal. Afebrile.
   Hemodynamically stable.
   Platelet count stable. Bone marrow bx results pending. Restart sc
   heparin.
   Hct stable. Not at transfusiion threshold. No evidence of ongoing
   bleeding.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2154-11-30**] 04:02 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2154-11-25**] 07:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35

2154-12-01 12:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, trhombocytopenia, COPD, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on PSV through most of the day yesterday. O2 sats excellent on
   35% oxygen.  Patient on trach mask for one hour yesterday.  Blood
   pressure has been stable.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2154-12-1**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-12-1**] 06:00 AM
   Lansoprazole (Prevacid) - [**2154-12-1**] 09:36 AM
   Other medications:
   Insulin, reglan, diltiazem, lisinopril, coreg, atrovent, PPI,
   simethicone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-12-1**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.5
C (95.9
   HR: 65 (58 - 87) bpm
   BP: 129/46(63) {112/38(63) - 148/110(117)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 46.4 kg (admission): 48.8 kg
   Height: 60 Inch
             Total In:
                                                                  2,408 mL
                                                                  1,005 mL
   PO:
             TF:
                                                                  1,218 mL
                                                                    587 mL
   IVF:
                                                                    240 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                    343 mL
                                                                    400 mL
   Urine:
                                                                    343 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,065 mL
                                                                    605 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 303 (303 - 400) mL
   Vt (Spontaneous): 364 (254 - 392) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 84
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Lethargic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Trach tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : Diffuse, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   63 K/uL
   159 mg/dL
   1.1 mg/dL
   26 mEq/L
   5.4 mEq/L
   30 mg/dL
   102 mEq/L
   132 mEq/L
   27.7 %
   3.7 K/uL
        [image002.jpg]
                             [**2154-11-24**]  03:59 AM
                             [**2154-11-24**]  10:15 AM
                             [**2154-11-25**]  04:44 AM
                             [**2154-11-26**]  03:26 AM
                             [**2154-11-27**]  04:38 AM
                             [**2154-11-27**]  04:39 PM
                             [**2154-11-28**]  03:45 AM
                             [**2154-11-29**]  05:00 AM
                             [**2154-11-30**]  05:59 AM
                             [**2154-12-1**]  05:53 AM
   WBC
   7.7
   4.1
   3.9
   4.2
   2.8
   3.6
   3.4
   3.7
   Hct
   32.5
   30.8
   31.6
   30.9
   29.6
   29.4
   29.8
   27.7
   Plt
   81
   61
   57
   48
   46
   44
   52
   63
   Cr
   1.0
   0.9
   0.9
   0.9
   0.8
   0.8
   1.0
   1.1
   TCO2
   32
   29
   Glucose
   120
   97
   79
   96
   122
   168
   128
   159
   Other labs: PT / PTT / INR:12.2/31.1/1.0, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Fibrinogen:105 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL,
   LDH:284 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: bilateral pleural effusion. UZRD.
   Assessment and Plan
 THROMBOCYTOPENIA, CHRONIC
 INEFFECTIVE COPING
 OLIGURIA/ANURIA
 .H/O HYPERTENSION, BENIGN
 ATRIAL FLUTTER (AFLUTTER)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
   CHF
   Patient very lethargic today; has not slept in 3 days. Probably cannot
   do trach mask trials today. Will begin diuresis; has evidence of total
   body volume overload and large pleural effusions, which are likely
   contributing to ongoing respiratory failure. Check ABG and VBG
   simultaneously. I am still concerned that we may be overventilating her
   relative to what would be ideal for her. With a higher PaCO2, the
   minute ventilation she will need to generate will be less. Need acid
   stimulus to get kidney to generate bicarbonate.  Creat up slightly;
   watch with diuresis. Potassium up to 5; may relate to low urine output.
   Recheck later today.
   Hct stable. No evidence of ongoing bleeding.
   Has been hemodynamically stable.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2154-11-30**] 11:39 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-11-25**] 07:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes

2154-12-02 11:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   confused this morning. persistent bradycardia. lasted 15 min off vent.
   PSV up-titrated o/n for hypoexmia and low Vt.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2154-12-2**] 12:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-12-1**] 10:00 PM
   Other medications:
   RISS, Peridex, Reglan, Diltiazem, Lisinopril, Coreg, Atrovent,
   Prevacid, simethicone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-12-2**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 65 (56 - 81) bpm
   BP: 125/47(55) {99/38(54) - 171/101(106)} mmHg
   RR: 16 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 46.4 kg (admission): 48.8 kg
   Height: 60 Inch
             Total In:
                                                                  1,749 mL
                                                                    648 mL
   PO:
             TF:
                                                                  1,209 mL
                                                                    540 mL
   IVF:
                                                                    240 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    660 mL
   Urine:
                                                                  1,755 mL
                                                                    660 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -506 mL
                                                                    -12 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 428 (290 - 428) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.33/57/101/32/1
   Ve: 6.6 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Extremities: Right: 3+, Left: 3+
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, somewhat confused
   Labs / Radiology
   8.8 g/dL
   79 K/uL
   151 mg/dL
   1.1 mg/dL
   32 mEq/L
   4.9 mEq/L
   33 mg/dL
   100 mEq/L
   133 mEq/L
   27.3 %
   3.2 K/uL
        [image002.jpg]
                             [**2154-11-26**]  03:26 AM
                             [**2154-11-27**]  04:38 AM
                             [**2154-11-27**]  04:39 PM
                             [**2154-11-28**]  03:45 AM
                             [**2154-11-29**]  05:00 AM
                             [**2154-11-30**]  05:59 AM
                             [**2154-12-1**]  05:53 AM
                             [**2154-12-1**]  02:41 PM
                             [**2154-12-1**]  08:02 PM
                             [**2154-12-2**]  04:25 AM
   WBC
   3.9
   4.2
   2.8
   3.6
   3.4
   3.7
   4.3
   3.2
   Hct
   31.6
   30.9
   29.6
   29.4
   29.8
   27.7
   27.2
   27.3
   Plt
   57
   48
   46
   44
   52
   63
   75
   79
   Cr
   0.9
   0.9
   0.8
   0.8
   1.0
   1.1
   1.1
   TCO2
   29
   31
   Glucose
   79
   96
   122
   168
   128
   159
   151
   Other labs: PT / PTT / INR:11.9/32.3/0.9, CK / CKMB /
   Troponin-T:36/2/0.20, ALT / AST:[**6-19**], Alk Phos / T Bili:43/0.3,
   Differential-Neuts:90.5 %, Band:0.0 %, Lymph:4.7 %, Mono:4.5 %, Eos:0.2
   %, Fibrinogen:105 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.5 g/dL,
   LDH:284 IU/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Microbiology: Blood cx- neg to date
   UCx- Klebsiella
   Assessment and Plan
 LETHARGY- likely related to sleep deprivation, no evidence of
   infectious process or other toxic-metabolic process
 RESPIRATORY FAILURE, CHRONIC (NOT ARDS/[**Doctor Last Name **])
   -B pleural effusions and total body overload --> diuresis to goal neg
   -500/day and follow creat
   -daily PSV weaning trials
 THROMBOCYTOPENIA, CHRONIC- stable
 CHRONIC KINDEY FAILURE, OLIGURIA/ANURIA- stable
 .H/O HYPERTENSION, BENIGN- controlled
 ATRIAL FLUTTER (AFLUTTER)- rate controlled; d/c diltiazem
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)- resolved
 IMPAIRED SKIN INTEGRITY- local wound care
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2154-12-1**] 07:30 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-11-25**] 07:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes